US08476287B2
<Step 1> Synthesis of [4-[(3-bromophenoxy)Methyl]phenyl]boronic Acid
3-bromophenol (0.50 g) was dissolved in acetone, and to the resultant solution, potassium carbonate (1.49 g), potassium iodide (14 mg), and 4-bromomethylphenyl boronic acid (0.62 g) were added, followed by heating the resultant reaction mixture under reflux for 3 hours. The reaction mixture was left to be cooled down, and to the reaction mixture, water was added, and a 2M hydrochloric acid was added to adjust pH of the reaction mixture to 2 to 3, followed by extracting the reaction mixture with ethyl acetate. The organic phase was washed with saturated saline and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure, and the resultant residue was purified by silica gel column chromatography to obtain the subject compound (0.45 g) as a colorless solid.

reactant | 3-bromophenol | 0.50 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium carbonate | 1.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromomethylphenyl boronic acid | 0.62 g | BrCC1=CC=C(C=C1)B(O)O | C7H8BBrO2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
catalyst | potassium iodide | 14 mg | [I-].[K+]
solvent | water | O | H2O
product | [4-[(3-bromophenoxy)Methyl]phenyl]boronic Acid | 0.45 g | BrC=1C=C(OCC2=CC=C(C=C2)B(O)O)C=CC1 | C13H12BBrO3
